US07371767B2
To a solution of 3-bromo-1-(triisopropylsilyl)-1H-pyrrole (0.691 g, 2.28 mmol) in THF (10 mL) at −78° C. was added t-butyllithium (2.83 mL, 4.80 mmol of 1.7M solution in heptane). The solution was stirred at −78° C. for 45 min, then trimethylborate (2.38 g, 22.8 mmol) was added and stirred at −78° C. for 20 min. The reaction mixture was allowed to warm to rt and then cooled again to −78° C. before methanol:water (V:V=1:1, 0.9 mL) was added and the solution allowed warm to rt. The reaction mixture was quenched with brine (10 mL) and extracted with EtOAc (3×25 mL). The combined organic phase was washed with brine, dried over Na2SO4 and concentrated in vacuo to give crude 1-(triisopropylsilyl)-1H-pyrrol-3-ylboronic acid which was used without further purification.

reactant | 3-bromo-1-(triisopropylsilyl)-1H-pyrrole | 2.28 mmol, 0.691 g | BrC1=CN(C=C1)[Si](C(C)C)(C(C)C)C(C)C | C13H24BrNSi
reactant | t-butyllithium | 4.80 mmol, 1.7M, 2.83 mL | C(C)(C)(C)[Li]
reactant | trimethylborate | 22.8 mmol, 2.38 g | COB(OC)OC | C3H9BO3
reactant | methanol | CO | CH4O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | water | 0.9 mL | O | H2O
product | 1-(triisopropylsilyl)-1H-pyrrol-3-ylboronic acid | C(C)(C)[Si](N1C=C(C=C1)B(O)O)(C(C)C)C(C)C | C13H26BNO2Si
